US04625032
0.93 g of 5-fluoro-L-tryptophan methyl ester hydrochloride is dissolved in 14 ml of methanol. 0.52 g of 35% formalin is added thereto and the mixture is stirred at room temperature for 20 hours. Ether is added to the mixture and crystalline precipitates are collected by filtration, washed with ether and dried, whereby 0.66 g of methyl (3S)-6-fluoro-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride are obtained as colorless needles. Yield: 68%

reactant | 5-fluoro-L-tryptophan methyl ester hydrochloride | 0.93 g | Cl.COC([C@@H](N)CC1=CNC2=CC=C(C=C12)F)=O
reactant | formalin | 0.52 g | C=O | CH2O
reactant | Ether | CCOCC | C4H10O
solvent | methanol | 14 ml | CO | CH4O
product | methyl (3S)-6-fluoro-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride | 0.66 g, Yield: 68% | Cl.FC=1C=C2C=3C[C@H](NCC3NC2=CC1)C(=O)OC | InChI=1S/C13H13FN2O2.ClH/c1-18-13(17)11-5-9-8-4-7(14)2-3-10(8)16-12(9)6-15-11;/h2-4,11,15-16H,5-6H2,1H3;1H/t11-;/m0./s1
